* SKY130 Stub Models - topology and DC-convergence validation only
* Level-1 MOSFET approximations. NOT for sign-off accuracy.

.lib tt

.model _sky130_nfet nmos level=1 kp=270e-6 vto=0.45 lambda=0.01 gamma=0.5 phi=0.9
.model _sky130_pfet pmos level=1 kp=90e-6  vto=-0.45 lambda=0.015 gamma=0.5 phi=0.9

.subckt sky130_fd_pr__nfet_01v8 d g s b
.param L=0.15 W=0.42 nf=1
M1 d g s b _sky130_nfet L=L W=W
.ends sky130_fd_pr__nfet_01v8

.subckt sky130_fd_pr__pfet_01v8 d g s b
.param L=0.15 W=0.42 nf=1
M1 d g s b _sky130_pfet L=L W=W
.ends sky130_fd_pr__pfet_01v8

.endl tt
